US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-isoleucyl-L-alaninate
217 mg (0.942 mmol) of N-(tert-butoxycarbonyl)-L-isoleucine together with 246 mg (1.284 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 157 mg (1.027 mmol) of 1-hydroxy-1H-benzotriazole hydrate and 0.746 ml (4.281 mmol) of N,N-diisopropylethylamine were dissolved in 7.5 ml of DMF, after which 650 mg (0.856 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-alaninate trifluoroacetate were added. After stirring at room temperature overnight, the reaction mixture was purified by preparative HPLC (acetonitrile/water). This gave 414 mg (56% of theory) of the target compound.

reactant | N-(tert-butoxycarbonyl)-L-isoleucine | 0.942 mmol, 217 mg | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.284 mmol, 246 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-1H-benzotriazole hydrate | 1.027 mmol, 157 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 4.281 mmol, 0.746 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-alaninate trifluoroacetate | 0.856 mmol, 650 mg | FC(C(=O)O)(F)F.N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-isoleucyl-L-alaninate | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C43H48ClN7O6S2
